US04337247
(II) Production of BOC-(D)-Gln-Gly-MePhe-NHNHCONH2
0.85 g of Z-Gly-MePhe-NHNHCONH2 is subjected to catalytic reduction in methanol, dissolved in 10 ml of DMF, and after ice-cooling, 0.50 g of BOC-(D)-Gln-OH, 0.40 g of HONB and 0.45 g of DCC are added. The mixture is stirred for 15 hours, the precipitated DCU filtered off and the solvent distilled off. The residue is dissolved in n-butanol, washed with a saturated aqueous solution of sodium hydrogen carbonate and water in that order and dried over anhydrous sodium sulfate. The solvent is distilled off, treated with ether and filtered to obtain a powder. Yield 0.82 g; m.p. 124°-128° C.; [α]D24 -36.5° (c=1.0, DMF); Rf1 0.11.

reactant | Z-Gly-MePhe-NHNHCONH2 | 0.85 g | N(CC(=O)N([C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)N)C)C(=O)OCC1=CC=CC=C1 | C21H25N5O5
reactant | BOC-(D)-Gln-OH | 0.50 g | N([C@H](CCC(N)=O)C(=O)O)C(=O)OC(C)(C)C | C10H18N2O5
reactant | HONB | 0.40 g | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 0.45 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methanol | CO | CH4O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | BOC-(D)-Gln-Gly-MePhe-NHNHCONH2 | N([C@H](CCC(N)=O)C(=O)NCC(=O)N([C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)N)C)C(=O)OC(C)(C)C | C23H35N7O7
